US05098462
A mixture of 3-chloro-2-methylphenylurea (5.0 g, 27.0 mmol), hydrazine hydrate (4.0 g, 80.0 mmol), 4 ml of water and 30 ml of ethanol is heated to reflux for 12 hours. The reaction mixture is then cooled and poured onto ice. A white precipitate forms, which is collected by filtration, washed with water and dried. The resulting solid is dissolved in hot ethanol and conc. HCl is added. The mixture is cooled and the resulting white solid precipitate is collected by filtration, washed with ethanol, and dried under vacuum to give 4-(3-chloro-2-methylphenyl)semicarbazide hydrochloride.

reactant | 3-chloro-2-methylphenylurea | 27.0 mmol, 5.0 g | ClC=1C(=C(C=CC1)NC(=O)N)C | C8H9ClN2O
reactant | hydrazine hydrate | 80.0 mmol, 4.0 g | O.NN
reactant | water | 4 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(3-chloro-2-methylphenyl)semicarbazide hydrochloride | Cl.ClC=1C(=C(C=CC1)NC(NN)=O)C | InChI=1S/C8H10ClN3O.ClH/c1-5-6(9)3-2-4-7(5)11-8(13)12-10;/h2-4H,10H2,1H3,(H2,11,12,13);1H
